US07232819B2
Step 1: 1-benzyl 4-tert-butyl 2-cyano-2-methylpiperazine-1,4-dicarboxylate (C-41)
To a cooled (−75° C.) solution of LDA 2M in heptane/THF (1.5 eq) in THF, a solution of 1-[(benzyloxy)carbonyl]-4-(tert-butoxycarbonyl)piperazine-2-carboxylic acid (Bigge et al, Tetrahedron Lett. 1989, 30: 5193) in THF was added dropwise at −75° C. After being stirred for 1 hour at −75° C., MeI (1.5 eq) was added. After 2 hours at −75° C. the reaction mixture was left warming to r.t., evaporated, diluted with AcOEt, washed with NaHCO3, water, brine and dried over Na2SO4. The crude was purified by flash chromatography on silica gel (petroleum ether/AcOEt, 85:15) to obtain the title compound (C-41).

reactant | LDA | 2M | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF | 1.5 eq | CCCCCCC.C1CCOC1
reactant | 1-[(benzyloxy)carbonyl]-4-(tert-butoxycarbonyl)piperazine-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
reactant | MeI | 1.5 eq | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 1-benzyl 4-tert-butyl 2-cyano-2-methylpiperazine-1,4-dicarboxylate | C(#N)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C | C19H25N3O4
